US04207419
1-Iodo-4,4-Dimethyl-5-Phenyl-trans-1-Penten-3-One
A solution of 5.7 g. of 1-chloro-4,4-dimethyl-5-phenyl-trans-1-penten-3-one in 30 ml. of dry acetone was treated with 4.3 g. of sodium iodide and refluxed under nitrogen for 20 hours. The mixture was cooled, filtered and evaporated. The residue was dissolved in ether, washed with water and dried with magnesium sulfate. Evaporation of the solvent gave 7.6 g. of the title product as an oil, λmaxfilm 3.5, 5.91, 6.4, 6.68, 6.80, 7.7, 9.3, 9.56, 10.0, 10.58, 13.4 and 14.2 μ.

reactant | 1-chloro-4,4-dimethyl-5-phenyl-trans-1-penten-3-one | Cl\C=C\C(C(CC1=CC=CC=C1)(C)C)=O | C13H15ClO
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-Iodo-4,4-Dimethyl-5-Phenyl-trans-1-Penten-3-One | I\C=C\C(C(CC1=CC=CC=C1)(C)C)=O | C13H15IO
